US07981903B2
2-fluoro-6-[(2-{[1-(2-hydroxy-2-methylpropanoyl)-5-(methyloxy)-2,3-dihydro-1H-indol-6-yl]amino}-1H-pyrrolo[2,3-d]pyrimidin-4-yl)amino]-N-methylbenzamide
A suspension of 5-chloro-8-fluoro-3-[(4-methylphenyl)sulfonyl]pyrrolo[2′,3′:4,5]pyrimido[6,1-b]quinazolin-7(3H)-one hydrogen chloride (300 mg, 0.63 mmol) and 1-[6-amino-5-(methyloxy)-2,3-dihydro-1H-indol-1-yl]-2-methyl-1-oxo-2-propanol (157 mg, 0.63 mmol) in THF(250 ml) was heated at 65° C. for 4 hrs. The reaction was diluted with ethyl acetate (200 ml) and washed with saturated NaHCO3 (300 ml). Organic layer was removed, concentrated by rotary evaporation, solids triturated from ethyl acetate/hexanes, and dried under house vacuum prior to next step. ESIMS (M+H)+=657. The solids were then added to THF (200 ml) followed by a solution of methylamine (2M in THF, 11.42 ml, 22.84 mmol) and the resulting mixture was stirred at rt overnight. Next, the crude reaction was adsorbed onto silica gel and purified by silica gel chromatography (DCM to 10% MeOH/DCM over 30 min). ESIMS (M+H)+=688. The isolated pure amide was redissolved in 1,4-dioxane (10 ml), and potassium hydroxide (8.72 ml, 8.72 mmol) was added and the reaction was heated in the microwave at 120° C. for 20 min. The resulting solution was adsorbed onto silica gel and purified by silica gel chromatography (DCM to 10% MeOH/DCM) to afford the title compound (0.130 g, 39% over three steps). ESIMS (M+H)+=534. 1H NMR (400 MHz, DMSO-d6) δ ppm 1.38 (s, 6 H) 2.80 (d, J=4.41 Hz, 3 H) 3.06 (t, J=8.03 Hz, 2 H) 3.78 (s, 3 H) 4.43 (t, J=8.23 Hz, 2 H) 5.42 (s, 1 H) 6.26-6.27 (m, 1 H) 6.85-6.93 (m, 1 H) 6.93 (m, 1 H) 6.96 (s, 1 H) 7.28-7.38 (m, 1 H) 7.55 (s, 1 H) 8.37 (d, J=8.43 Hz, 1 H) 8.51-8.58 (m, 1 H) 8.62 (s, 1 H) 10.17 (s, 1 H) 11.26 (s, 1 H).

reactant | 5-chloro-8-fluoro-3-[(4-methylphenyl)sulfonyl]pyrrolo[2′,3′:4,5]pyrimido[6,1-b]quinazolin-7(3H)-one hydrogen chloride | 0.63 mmol, 300 mg | Cl.ClC1=NC2=C(C3=NC4=CC=CC(=C4C(N31)=O)F)C=CN2S(=O)(=O)C2=CC=C(C=C2)C
reactant | 1-[6-amino-5-(methyloxy)-2,3-dihydro-1H-indol-1-yl]-2-methyl-1-oxo-2-propanol | 0.63 mmol, 157 mg | NC1=C(C=C2CCN(C2=C1)C(C(C)(O)C)=O)OC | C13H18N2O3
reactant | methylamine | 22.84 mmol, 2M, 11.42 ml | CN | CH5N
reactant | potassium hydroxide | 8.72 mmol, 8.72 ml | [OH-].[K+]
solvent | THF | 250 ml | C1CCOC1 | C4H8O
solvent | ethyl acetate | 200 ml | C(C)(=O)OCC | C4H8O2
product | 2-fluoro-6-[(2-{[1-(2-hydroxy-2-methylpropanoyl)-5-(methyloxy)-2,3-dihydro-1H-indol-6-yl]amino}-1H-pyrrolo[2,3-d]pyrimidin-4-yl)amino]-N-methylbenzamide | 0.130 g, 39% | FC1=C(C(=O)NC)C(=CC=C1)NC1=C2C(NC(=N1)NC1=C(C=C3CCN(C3=C1)C(C(C)(C)O)=O)OC)=NC=C2 | C27H28FN7O4
